V1 1 0 10V 			; source voltage 
R1 1 2 50ohm 		; resistor 
C1 2 0 0.02UF IC=0.0V 	; sets initial conditions 
.TRAN 0.05US 5US UIC 	; Analysis 
.PROBE 			; PROBE graphics output 
.OPTIONS NOPAGE 
.END 