R1 1 0 8.573ohm
L1 1 0 7 IC=-10A
C1 1 0 0.0238095 IC=0V    
.TRAN 0.1pS 5s              	; analysis method
.PROBE				; PROBE graphics output, trace V(t)
.OPTIONS NOPAGE
.END