R1 1 4 2ohm
R2 1 2 3ohm
R3 3 4 4ohm
R4 3 4 4.5ohm
R5 4 0 9ohm
V1 1 0 2.5V
V2 3 2 3V
I1 2 0 10A
.DC V1 10 10 1
.PRINT DC V(R1), V(R2), V(R3), V(R4), V(R5), V(V1), V(V2), V(I1), I(R1), I(R2), I(R3), I(R4), I(R5), I(V1), I(V2), I(I1)
.OPTIONS NOPAGE
.END