R1 1 4 2ohm
R2 1 2 3ohm
R3 3 4 4ohm
R4 3 4 4.5ohm
R5 5 0 9ohm
V1 3 2 3V
Vm 4 5
H1 1 0 Vm 2.5
G1 2 0 1 4 5
.DC V1 10 10 1
.PRINT DC V(R1), V(R2), V(R3), V(R4), V(R5), V(V1), V(H1), V(G1), I(R1), I(R2), I(R3), I(R4), I(R5), I(V1), I(G1), I(H1)
.OPTIONS NOPAGE
.END