V1 1 0 AC 10V 0 ; 10 volts, 0 degrees phase 
R1 1 2 50OHM 
C1 2 0 0.02UF 
.AC DEC 20 10KHZ 1MEGAHZ ; Analysis 
.PROBE 			 ; PROBE graphics output 
.OPTIONS NOPAGE 
.END 